US06355633B1
2-Bromomethyl-5-nitro-benzenesulfonic Acid, 2,2-Dimethylpropyl Ester
To a solution of 2-methyl-5-nitro-benzenesulfonic acid, 2,2-dimethylpropyl ester, Example 24 (1.0 g, 3.48 mmol) in dry carbon tetrachloride (50 mL) was added 126 mg (0.52 mmol) of benzoyl peroxide and 712 mg (4.0 mmol) of recrystallized N-bromosuccinimide. A reflux condensor was attached and the mixture was heated to reflux and stirred overnight. After cooling to room temperature the reaction mixture was diluted with ethyl acetate (250 mL) and washed with water, followed by saturated sodium bicarbonate, and then brine. The organic layer was dried (MgSO4) and concentrated to dryness on a rotary evaporator. Purification by flash column chromatography using 10% ethyl acetate in hexanes gave 560 mg (44%) of the title compound as a white solid: 1HNMR (CDCl3): d 8.83 (d, J=2 Hz, 1H), 8.48 (dd, J=2 Hz, 9 Hz, 1H), 7.92 (d, J=9 Hz, 1H), 4.96 (s, 2H), 3.85 (s, 2H), 1.0 (s, 9H); MS (ES-NEG): [M−H] 364/366; Anal. Calc. for C12H16BrNO5S: C, 39.35; H, 4.40; N, 3.82. Found: C, 39.88; H, 4.16; N, 3.85.

reactant | 2-methyl-5-nitro-benzenesulfonic acid, 2,2-dimethylpropyl ester | CC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)OCC(C)(C)C | C12H17NO5S
reactant | benzoyl peroxide | 0.52 mmol, 126 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 4.0 mmol, 712 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2-Bromomethyl-5-nitro-benzenesulfonic Acid, 2,2-Dimethylpropyl Ester | 560 mg, 44% | BrCC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)OCC(C)(C)C | C12H16BrNO5S
